US08258144B2
4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)benzoic acid
The titled compound was synthesized analogously as compound 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone, by using 4-aminobenzoic acid. MS 346.2 (M+H); UV 215.8, 275.8, 292.8 nm.

reactant | 1-(4-(4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C22H30FN7O
reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
product | 4-(4-(4-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-ylamino)benzoic acid | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C(=O)O)C=C1 | C17H20FN5O2
